Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HMED INITIAL NOTE

PCP:
Name: ___. 
Location: ___. 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

HPI:
History taken with interpreter and daughter in law at bedside.  
Mr. ___ is a ___ ___ speaking man with h/o varicose veins s/p 
Radiofrequency ablation of the right greater saphenous vein on 
___ who presents with days of sharp chest/side pain and back 
pain worse with inspiration and SOB.  He otherwise was in his 
usual state of health.  He denies f/c, HA, cough, CP.  He feels 
dizzy.  He denies palps, n/v/d.  He also endorses feeling of 
food getting stuck in esophagus for the last few months.  He had 
an EGD ___ yr ago that was negative. He denies and bloody or black 
stool.  He denies any new leg pain or swelling since his 
procedure.  He denies recent travel.

ED course reviewed.  Patient found to have DVT at site of 
ablation and bilateraly PE. He was initiated on IV heparin.

10 point review of systems reviewed and otherwise negative 
except as listed above
 
Past Medical History:
Varicose veins
 
Social History:
___
Family History:
Denies history of blood clots
 
Physical Exam:
VS: 98.3 PO 135 / 79 R Lying 61 16 98 RA 
GEN: lying in bed in NAD
HEENT: NC/AT MMM OP clear anicteric sclera
NECK: supple no LAD
CV; RRR no mrg
PULM:  Crackles at L base, and subtely on the R no wheeze good 
expansion
GI: soft NT/ND +BS no rebound or guarding
EXT: warm perfused no edema or TTP of muscle.  Ablation
DERM: patchy ecchymosis noted over LLE
NEURO: fluent speech, moving all extremities, no focal deficits 
appreciated
 
Pertinent Results:
___ 04:25AM BLOOD WBC-4.9 RBC-4.07* Hgb-13.0* Hct-38.1* 
MCV-94 MCH-31.9 MCHC-34.1 RDW-11.5 RDWSD-39.7 Plt ___
___ 10:28AM BLOOD ___ PTT-34.4 ___
___ 04:25AM BLOOD Glucose-106* UreaN-18 Creat-0.8 Na-140 
K-3.8 Cl-102 HCO3-28 AnGap-10
___ 04:25AM BLOOD cTropnT-<0.01
___ 04:25AM BLOOD D-Dimer-1465*

EKG, my review: sinus with PVCs, nl intervals, no clear signs of 
R heart strain or ACS

CXR, my review:
IMPRESSION:  
  
Small, left pleural effusion with associated consolidation at 
the left lung 
base, which may represent atelectasis or pneumonia. 

CTA CHEST:
IMPRESSION:  
  
1.  Extensive bilateral pulmonary emboli. 
2.  Volume loss and consolidation at the left lung base.  A 
component of 
pulmonary infarction is not excluded. 
3.  Apical-predominant minimal ground-glass opacities, may be 
inflammatory in 
nature. 

___:
IMPRESSION:  
  
Long segment of echogenic thrombus is seen in the right greater 
saphenous vein 
extending close to the junction with the common femoral vein.  
Otherwise, no 
evidence of deep venous thrombosis in the right or left lower 
extremity veins. 

ECHO:
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF>70%). Doppler parameters are most 
consistent with normal left ventricular diastolic function. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

 IMPRESSION: Normal right ventricular chamber size and systolic 
function. Mild pulmonary hypertension. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M with recent varicose vein ablation who 
presented with several days of pleuritic chest pain and SOB, 
found to have RLE DVT and extensive submassive PE without signs 
for R heart strain, stabilized and improved on therapy. 

Acute submassive PE:  
Acute RLE DVT:  
Lightheadedness
Given location of DVT and recent ablation procedure, the 
patient's PE appeared provoked. Underlying malignancy can also 
be considered (see below). He had no signs for R heart strain. 
BNP, trop wnl.  Echo with mild pulm HTN Clinically he responded 
to anticoagulation.  his lightheadedness was subjective and 
likely related to PE effects and should improve as well.  He did 
have small amount of hemoptysis likely related to his PE and 
infarct but had no evidence of respiratory effects.  He was 
initially placed on IV heparin and then transitioned to 
Rivaroxaban, 15mg BID x21 days and then 20mg daily therafter.  
Recommended 6 months of treatment.  Counseled in detail on this 
medication and importance of taking and side effects.
- Re-assess at 6 months of treatment
- consider repeat echo to assess pulm HTN
- monitor for signs of ongoing hemoptysis
- short course of oxycodone and senna given, PMP reviewed

Dysphagia:  
Patient reported dysphagia with solids for several months. He 
has had and EGD and colonoscopy in ___ respectively. This 
did make me concerned for an underlying pathology (ie 
malignancy) 
- I discussed GI follow up with patient and daughter in law. He 
will need repeat EGD as soon as it is safe to do so from a PE 
perspective, likely in ___ months. They expressed good 
understanding about need for follow up of this.

Lightheadedness:
no focal deficits.  This appeared to be related to his PE.  
Monitor on follow up

Varicose Veins:
He has vascular surgery follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
do not take with alcohol or while driving 
RX *oxycodone 5 mg 1 tablet(s) by mouth four times a day Disp 
#*20 Tablet Refills:*0 
3.  Rivaroxaban 15 mg PO BID Duration: 20 Days 
with food.  take twice daily through ___ 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) ___ tablets(s) 
by mouth As directed Disp #*1 Dose Pack Refills:*0 
4.  Rivaroxaban 20 mg PO DAILY 
after 21 day load, start on ___.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute submasssive PE
Acute DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with chest pain and found to have a blood clot 
in your lungs and leg.  You required blood thinning medication 
and you will continue on discharge.  As we discussed, please 
continue this medication as prescribed and follow up closely 
with your PCP.

You will be prescribed Xarelto, to take 15mg twice daily through 
___, then start 20mg daily on ___.  Please see your PCP to 
have your prescription for 20mg daily refilled after the first 
month.

Please avoid heavy lifting, activity that could cause trauma, 
and call your doctor with any new or increase in bleeding or any 
other concerning symptoms.

Also as we discussed, please see your gastroenterologist to 
discuss your swallowing discomfort.  I recommend that you have a 
repeat endoscopy.
 
Followup Instructions:
___